### PR TITLE
Add well-formed theorems for removeFromCurrent

### PR DESCRIPTION
**Pull request by math-fehr**
This refactors the well-formed theorems for removeFromCurrent, and adds new ones.
I also tried to add/move some useful theorems in IR/WellFormed

### CODE REVIEW

File: Veir/IR/WellFormed.lean [hunk 1]
```diff
@@ -49,21 +49,44 @@ theorem ValuePtr.DefUse_getFirstUse!_value_eq_of_back_eq_valueFirstUse
     (firstUse.get! ctx).value.getFirstUse! ctx = some firstUse := by
   grind [ValuePtr.DefUse, Array.getElem?_of_mem]
 
+theorem OpOperandPtr.value!_eq_of_back!_eq_valueFirstUse
```
Comment (ineol) [inline Veir/IR/WellFormed.lean]: All the other theorems start with `DefUse` but not this one?

File: Veir/IR/WellFormed.lean [hunk 2]
```diff
@@ -49,21 +49,44 @@ theorem ValuePtr.DefUse_getFirstUse!_value_eq_of_back_eq_valueFirstUse
...
-    (hvalueFirstUse : (firstUse.get! ctx).value.DefUse ctx array)
-    (h : (firstUse.get! ctx).value.getFirstUse! ctx = some firstUse) :
-    (firstUse.get! ctx).back = .valueFirstUse (firstUse.get! ctx).value := by
+    (hvalueFirstUse : value.DefUse ctx array missingUses)
+    (h : value.getFirstUse! ctx = some firstUse) :
+    (firstUse.get! ctx).back = .valueFirstUse value := by
+  have : (firstUse.get! ctx).value = value := by grind [ValuePtr.DefUse]
   grind [ValuePtr.DefUse, Array.getElem?_of_mem]
 
+theorem ValuePtr.DefUse_getFirstUse!_eq_iff_back_eq_valueFirstUse
```
Comment (ineol) [inline Veir/IR/WellFormed.lean:100]: Should the name be `ValuePtr.DefUse.get...` instead?

File: Veir/IR/WellFormed.lean [hunk 3]
```diff
@@ -78,7 +101,16 @@ theorem ValuePtr.DefUse_array_toList_Nodup
   simp only [List.pairwise_iff_getElem]
   grind [ValuePtr.DefUse_array_injective]
 
-theorem ValuePtr.DefUse_array_erase_mem_self
+@[grind .]
+theorem ValuePtr.DefUse.array_mem_erase_self
+    (hWF : ValuePtr.DefUse value ctx array hvalue) :
+    use ∈ array →
```
Comment (ineol) [inline Veir/IR/WellFormed.lean]: we can probably compress to one line?

File: Veir/IR/WellFormed.lean [hunk 4]
```diff
@@ -94,6 +126,49 @@ theorem ValuePtr.DefUse_array_erase_array_index
   rw [← Array.toArray_toList (xs := array)]
   grind  [List.idxOf_getElem]
 
+@[grind .]
+theorem ValuePtr.DefUse.array_erase_array_getElem_eq :
```
Comment (ineol) [inline Veir/IR/WellFormed.lean]: Shouldn't it be something like
```
erase_getElem_array_eq_eraseIdx
```
or something like this? or without the `array` in the name?

File: Veir/Rewriter/LinkedList/WellFormed.lean [hunk 5]
```diff
@@ -86,60 +86,30 @@ theorem Region.wellFormed_OpOperandPtr_insertIntoCurrent
...
-  simp only [removeFromCurrent]
-  simp only [←OpOperandPtr.get!_eq_get]
-  split <;> grind [ValuePtr.DefUse, Array.getElem?_of_mem]
-
-theorem OpOperandPtr.removeFromCurrent_DefUse_back_same_value
-    (useInBounds : OpOperandPtr.InBounds use ctx)
-    (useOfValue : (use.get! ctx).value = value) array
-    (hWF : value.DefUse ctx array)
-    i (iPos : i > 0) (iInBounds : i < (array.erase use).size) useInBounds ctxInBounds (iInBounds' : (array.erase use)[i].InBounds (removeFromCurrent ctx use useInBounds ctxInBounds)) :
+theorem OpOperandPtr.back!_array_getElem_removeFromCurrent_eq_of_DefUse
```
Comment (ineol) [inline Veir/Rewriter/LinkedList/WellFormed.lean:91]: techically `back!_array_getElem!_removeFromCurrent_eq_of_DefUse` I think? also in other places

File: Veir/Rewriter/LinkedList/WellFormed.lean [hunk 6]
```diff
@@ -148,76 +118,111 @@ theorem OpOperandPtr.removeFromCurrent_DefUse_nextUse
...
-    value.DefUse (use.removeFromCurrent ctx (by grind) (by grind)) (array.erase use) (Std.ExtHashSet.ofList [use]) := by
-  intros hWF
+  by_cases i < useIdx <;> grind [ValuePtr.DefUse, ValuePtr.DefUse_array_injective]
+
+theorem OpOperandPtr.removeFromCurrent_ValuePtr_getFirstUse
+    {valuePtr : ValuePtr}
+    (valuePtrWF : valuePtr.DefUse ctx array missingUses)
+    (operandValueWF : (operandPtr.get! ctx).value.DefUse ctx array' missingUses')
+    (operandInArray : operandPtr ∈ array') :
+      valuePtr.getFirstUse! (OpOperandPtr.removeFromCurrent ctx operandPtr operandPtrInBounds ctxInBounds) =
```
Comment (ineol) [inline Veir/Rewriter/LinkedList/WellFormed.lean]: I don't think the statement after the colon should be more indented

File: Veir/Rewriter/LinkedList/WellFormed.lean [hunk 7]
```diff
@@ -148,76 +118,111 @@ theorem OpOperandPtr.removeFromCurrent_DefUse_nextUse
...
+        if valuePtr.getFirstUse! ctx = some operandPtr then
+          (operandPtr.get! ctx).nextUse
+        else
+          valuePtr.getFirstUse! ctx := by
+  simp only [ValuePtr.getFirstUse!_OpOperandPtr_removeFromCurrent]
+  congr 1
+  simp [ValuePtr.DefUse_getFirstUse!_eq_iff_back_eq_valueFirstUse operandValueWF (by grind) valuePtrWF]
+
+theorem ValuePtr.DefUse.array_getElem?_zero_erase_eq
```
Comment (ineol) [inline Veir/Rewriter/LinkedList/WellFormed.lean]: `getElem?_zero_erase_array_eq`?

File: Veir/Rewriter/LinkedList/WellFormed.lean [hunk 8]
```diff
@@ -148,76 +118,111 @@ theorem OpOperandPtr.removeFromCurrent_DefUse_nextUse
...
+    (useInBounds : OpOperandPtr.InBounds use ctx)
+    (hWF : ValuePtr.DefUse value ctx array missingUses) (useInArray: use ∈ array)
+    {i} (iInBounds : i < (array.erase use).size) :
+    (array.erase use)[0]? = value.getFirstUse! (use.removeFromCurrent ctx useInBounds ctxInBounds) := by
+  grind [Array.getElem_of_mem, ValuePtr.DefUse, ValuePtr.DefUse.array_erase_array_getElem_eq]
+
+theorem ValuePtr.defUse_removeFromCurrent_self
```
Comment (ineol) [inline Veir/Rewriter/LinkedList/WellFormed.lean:148]: Why not `ValuePtr.DefUse.removeFromCurrent_self`?

File: Veir/Rewriter/LinkedList/WellFormed.lean (hunk 5 above)
Comment (math-fehr) [reply Veir/Rewriter/LinkedList/WellFormed.lean:91]: Why `getElem!` here? We are using `getElem` right?

File: Veir/Rewriter/LinkedList/WellFormed.lean (hunk 8 above)
Comment (math-fehr) [reply Veir/Rewriter/LinkedList/WellFormed.lean:148]: On this, I'm actually confused.
Because the expression tree we have is `DefUse (removeFromCurrent ...) = ...`, so shouldn't this be `defUse_removeFromCurrent_...`?
Or should we always put it in the namespace, but then both this expression tree and `removeFromCurrent ... = ...` would have the same name more or less? Or should this be `ValuePtr.DefUse.defUse_removeFromCurrent_...`?

File: Veir/Rewriter/LinkedList/WellFormed.lean (hunk 5 above)
Comment (ineol) [reply Veir/Rewriter/LinkedList/WellFormed.lean:91]: Yeah sorry I got confused by the get I think :)

File: Veir/Rewriter/LinkedList/WellFormed.lean (hunk 8 above)
Comment (ineol) [reply Veir/Rewriter/LinkedList/WellFormed.lean:148]: Ah yeah you're right. This rule about namespaces is a bit confusing to me...
